US08871767B2
6-chloro-2-[3-nitro-4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyrazine
A solution of 5-chloropyrazin-2-amine (0.336 g, 2.6 mmol) and 2-bromo-1-[3-nitro-4-(trifluoromethyl)phenyl]ethanone (0.811 g, 2.6 mmol) in acetonitrile (15 mL) is stirred at 100° C. for 18 hr. The mixture is concentrated to give the title compound (890 mg), which is used without further purification. LCMS m/z=343.3 [M+H]+, tR=2.65 min.

reactant | 5-chloropyrazin-2-amine | 2.6 mmol, 0.336 g | ClC=1N=CC(=NC1)N | C4H4ClN3
reactant | 2-bromo-1-[3-nitro-4-(trifluoromethyl)phenyl]ethanone | 2.6 mmol, 0.811 g | BrCC(=O)C1=CC(=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C9H5BrF3NO3
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 6-chloro-2-[3-nitro-4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyrazine | 890 mg | ClC=1N=CC=2N(C1)C=C(N2)C2=CC(=C(C=C2)C(F)(F)F)[N+](=O)[O-] | C13H6ClF3N4O2
